US03954860
Diphenyl{1-[3-(4-chlorophenyl)ureido]butyl}phosphine oxide ##EQU19##
A mixture of 0.15 mole each of p-chlorophenylurea, phenyl diphenylphosphinite, and n-butyraldehyde in 150g of toluene is warmed at reflux for 5.5 hr, giving a reaction mixture having a 31P nmr signal only at -36.8 ppm. When the toluene is removed at reduced pressure, the residue solidifies. Recrystallization of a portion from benzene gives a white solid: mp 275°-278°C; 31P nmr -37.4 ppm; 1H nmr δ9.1 (s, 1, NHC6H4C1), 6.4-8.1 (m, 15, aryl and CHNH), 5.1 (m, 1, PCH), 0.6-2.0 (m, 7, CH2CH2CH3).

reactant | p-chlorophenylurea | 0.15 mole | ClC1=CC=C(C=C1)NC(=O)N | C7H7ClN2O
reactant | phenyl diphenylphosphinite | C1(=CC=CC=C1)P(OC1=CC=CC=C1)C1=CC=CC=C1 | C18H15OP
reactant | n-butyraldehyde | C(CCC)=O | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Diphenyl{1-[3-(4-chlorophenyl)ureido]butyl}phosphine oxide | C1(=CC=CC=C1)P(C(CCC)NC(=O)NC1=CC=C(C=C1)Cl)(C1=CC=CC=C1)=O | C23H24ClN2O2P
